US04277394
(I) Production of Z-Phe-NH-NH-CO-CH3
In 50 ml of THF is dissolved 2.03 g (6.5 m mols) of Z-Phe-NH-NH2, and under cooling, 1.4 ml of acetic anhydride and 0.9 ml of TEA are added dropwise. The mixture is stirred at room temperature for 2 hours. The crystals are collected by filtration, washed with diethyl ether and recrystallized from AcOEt. 1.9 g (83%); m.p. 205°-206° C.; [α]D23 -16.4° (c=0.5, DMF); Rf1 =0.60.

reactant | Z-Phe-NH-NH2 | 2.03 g | N([C@@H](CC1=CC=CC=C1)C(=O)NN)C(=O)OCC1=CC=CC=C1 | C17H19N3O3
reactant | acetic anhydride | 1.4 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Z-Phe-NH-NH-CO-CH3 | N([C@@H](CC1=CC=CC=C1)C(=O)NNC(=O)C)C(=O)OCC1=CC=CC=C1 | C19H21N3O4
